US04936904
A one liter flask was fitted with a mechanical stirrer, CaCl2 drying tube, condenser and a sidearm addition funnel. 100 gms of PCl5 was placed in the flask. 39 gms of ethyl 4-methylbenzoylacetate and 100 gms of PCl3 were mixed and slowly added to the PCl5 at room temperature. The reaction mixture evolved HCl. After 30 minutes the mixture was cautiously refluxed for 2 hours. At this time PCl3 and POCl3 were distilled from the reaction mixture at reduced pressure. The residue was then distilled at 0.5 mm (bp=116°-121°) to provide 32 gms of β-chloro-4-methylcinnamoyl chloride as a clear oil.

reactant | PCl5 | 100 gms | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ethyl 4-methylbenzoylacetate | 39 gms | CC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C12H14O3
reactant | PCl3 | 100 gms | P(Cl)(Cl)Cl | Cl3P
reactant | HCl | Cl | ClH
product | β-chloro-4-methylcinnamoyl chloride | 32 gms | ClC(=CC(=O)Cl)C1=CC=C(C=C1)C | C10H8Cl2O
